US07425568B2
6-(2-Azidoethoxy)-2-phenylchroman-4-one was prepared as described for 6-(2-azidoethoxy)-2-phenylchroman in example 4(a) starting from 1.0 g of 6-hydroxy-flavanone. 1H NMR (400 MHz, CD3OD) δ: 7.53-7.51 (m, 2H), 7.44-7.35 (m, 4H), 7.22 (dd, 1H, J 9.0, 3.1 Hz), 7.04 (d, 1H, J 9.0 Hz), 5.51 (dd, 1H, J 13.1, 3.0 Hz), 4.17 (t, 2H, J 4.9 Hz), 3.60 (t, 2H, J 4.9 Hz), 3.11 (dd, 1H, J −16.9, 13.1 Hz), 2.85 (dd, 1H, J −16.9, 3.0 Hz).

reactant | 6-(2-azidoethoxy)-2-phenylchroman | N(=[N+]=[N-])CCOC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C17H17N3O2
reactant | 6-hydroxy-flavanone | 1.0 g | OC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=O | C15H12O3
product | 6-(2-Azidoethoxy)-2-phenylchroman-4-one | N(=[N+]=[N-])CCOC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=O | C17H15N3O3
